US04929613
2-[3-(4-Bromo-2,5-difluorophenyl)cyclopentyl]-1H-isoindole-1,3(2H)-dione.
To a solution of 13.9 g (50 mmol) of 3-(4-bromo-2,5-difluorophenyl)cyclopentanol, 7.4 g (50 mmol) of phthalimide and 13.1 g (50 mmol) of triphenylphosphine in 50 ml of dry tetrahydrofuran was added dropwise at room temperature a solution of 8.7 g (50 mmol) of diethyl azodicarboxylate in 20 ml of dry tetrahydrofuran. The reaction was stirred at room temperature for 18 hours and the solvent was removed in vacuo. The residue was triturated with ether and the solid removed by filtration. The filtrate was evaporated in vacuo and the residue was chromatographed on silica gel (E. Merck -230-400 Mesh) eluting with chloroform-ethyl acetate (4:1) to give 15.6 g of the title compound; mp 47°-48°.

reactant | 3-(4-bromo-2,5-difluorophenyl)cyclopentanol | 50 mmol, 13.9 g | BrC1=CC(=C(C=C1F)C1CC(CC1)O)F | C11H11BrF2O
reactant | phthalimide | 50 mmol, 7.4 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 50 mmol, 13.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 50 mmol, 8.7 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-[3-(4-Bromo-2,5-difluorophenyl)cyclopentyl]-1H-isoindole-1,3(2H)-dione | 15.6 g | BrC1=CC(=C(C=C1F)C1CC(CC1)N1C(C2=CC=CC=C2C1=O)=O)F | C19H14BrF2NO2
